US05066658
To a stirred solution of benzyloxyamine (36.63 g, 0.297 mol) in THF (250 ml) was added a solution of 2-chloroethyl isocyanate (25.4 ml, 1.0 equiv.) in THF (50 ml) over 20 minutes. The resulting cloudy solution was refluxed for 10 minutes, cooled and evaporated. Trituration of the residue with ether-hexane gave N-benzyloxy-N'-(2-chloroethyl)urea as a white solid (65.82 g, 97% yield), mp 67°-68° C. after recrystallization from hexane-ether. To a stirred solution of this urea (65.8 g, 0.287 mol) in the THF (500 ml) at room temperature was added sodium hydride (11.8 g of 60% dispersion in oil, 1.02 equiv.) in portions over 30 minutes. The cloudy solution was refluxed for 10 minutes, cooled and evaporated. To the resulting semi-solid was added 2% aqueous citric acid (60 ml) and hexane (250 ml). After vigorous agitation, the resulting solid was collected by filtration and washed with water and hexane, to give 1-benzyloxy-2-imidazolidinone as a tan solid (52.66 g, 93% yield), mp 64°-65° C. after recrystallization from water.

reactant | benzyloxyamine | 0.297 mol, 36.63 g | C(C1=CC=CC=C1)ON | C7H9NO
reactant | 2-chloroethyl isocyanate | 25.4 ml, 1.0 equiv. | ClCCN=C=O | C3H4ClNO
solvent | THF | 250 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | N-benzyloxy-N'-(2-chloroethyl)urea | 65.82 g, 97% yield | C(C1=CC=CC=C1)ONC(=O)NCCCl | C10H13ClN2O2
